US06693123B2
N-[4-Nitro-2-(2-methylphenyl)benzoyl]leucine Methyl Ester
4-nitro-2-(2-tolyl)benzoic acid (1.72 g, 6.7 mmol) was coupled with (L)-leucine methyl ester in the presence of EDCI and HOBT to give the desired compound (2.55 g, 99% yield). 1H NMR (CDCl3) δ 8.29 (d, J=8.7 Hz, 1H), 8.10-8.16 (m, 2H), 7.18-7.42 (m, 4H), 5.76 (d, J=7.6 Hz, 1H), 4.49 (br m, 1H), 3.66 (s, 3H), 2.19 (s, 1H), 2.08 (s, 2H), 1.30-1.39 (m, 1H), 1.02-1.09 (m, 2H), 0.75-0.80 (dd, J=6.7 and 7.1 Hz, 6H).

reactant | 4-nitro-2-(2-tolyl)benzoic acid | 6.7 mmol, 1.72 g | [N+](=O)([O-])C1=CC(=C(C(=O)O)C=C1)C1=C(C=CC=C1)C | C14H11NO4
reactant | (L)-leucine methyl ester | COC([C@@H](N)CC(C)C)=O | C7H15NO2
reactant | EDCI | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
product | N-[4-Nitro-2-(2-methylphenyl)benzoyl]leucine Methyl Ester | 2.55 g, 99% yield | COC([C@@H](NC(C1=C(C=C(C=C1)[N+](=O)[O-])C1=C(C=CC=C1)C)=O)CC(C)C)=O | C21H24N2O5
